US08278482B2
1-Methyl-1-(2-methyl-2-nitropropyl)piperidinium iodide
1-(2-Methyl-2-nitropropyl)piperidine (10.8 g, 57.9 mmol) was placed into a 48 mL pressure tube. Absolute ethanol (8.5 mL, 6.8 M) and methyl iodide (18.0 mL, 5 equiv, 0.29 mol) was added to the pressure tube. A stir bar was added and the pressure tube sealed. The reaction was left to stir at room temperature for 3 days. A thick yellow suspension had formed. The suspension was filtered and the solid washed with DCM to give a white powdery solid. The mother liquor was concentrated to deep yellow mushy solid. This solid was washed with DCM to give a white powdery solid. The two solids were combined and dried under high vacuum to give a white powder (10.4 g, 60%). 1H NMR (D2O, 400 MHz): δ 1.54-1.64 (m, 1H), 1.72-1.78 (m, 1H), 1.87 (s, 6H), 1.86-2.01 (m, 4H), 3.10 (s, 3 H), 3.42-3.51 (m, 4H), 4.20 (s, 2H). LRMS (ESI+) for C10H21N2O2+ (201.2); Found: 201 (M+).

reactant | 1-(2-Methyl-2-nitropropyl)piperidine | 57.9 mmol, 10.8 g | CC(CN1CCCCC1)(C)[N+](=O)[O-] | C9H18N2O2
reactant | methyl iodide | 0.29 mol, 18.0 mL, 5 equiv | CI | CH3I
solvent | ethanol | 6.8 M, 8.5 mL | C(C)O | C2H6O
product | 1-Methyl-1-(2-methyl-2-nitropropyl)piperidinium iodide | 10.4 g, 60% | [I-].C[N+]1(CCCCC1)CC(C)([N+](=O)[O-])C | InChI=1S/C10H21N2O2.HI/c1-10(2,11(13)14)9-12(3)7-5-4-6-8-12;/h4-9H2,1-3H3;1H/q+1;/p-1
